US08048902B2
(3-Bromo-phenyl)-acetic acid ethyl ester and bis(pinacolato)diboron were reacted as described in Example 18 to provide [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester.

reactant | (3-Bromo-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)Br)=O | C10H11BrO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
